US07696223B2
b) [(7-Hydroxy-2,4-diphenyl-thiazolo[5,4-c]pyridine-6-carbonyl)-amino]-acetic acid
A mixture of 7-hydroxy-2,4-diphenyl-thiazolo[5,4-c]pyridine-6-carboxylic acid ethyl ester (93 mg, 0.25 mmole) and glycine (372 mg, 4.95 mmole) in 0.5 M sodium methoxide/methanol (9.4 ml) was refluxed for 4 days before it was cooled to room temperature and concentrated in vacuo. The residue was dissolved in water (50 ml) and extracted twice with methyl t-butyl ether. The remaining aqueous layer was acidified to pH=3 with 1N HCl (7 ml). The resulting precipitate was filtered, washed with water and dried in vacuo to give the title compound as a yellow solid (79 mg). 1H NMR (DMSO-d6, 200 MHz): δ=13.28 (br s, 1H), 9.42 (t, 1H, J=6.2 Hz), 8.16 (m, 4H), 7.62 (m, 6H), 4.07 (d, 2H, J=5.8 Hz); MS: (+) m/z 406.27 (M+1).

reactant | 7-hydroxy-2,4-diphenyl-thiazolo[5,4-c]pyridine-6-carboxylic acid ethyl ester | 0.25 mmole, 93 mg | C(C)OC(=O)C1=C(C2=C(C(=N1)C1=CC=CC=C1)SC(=N2)C2=CC=CC=C2)O | C21H16N2O3S
reactant | glycine | 4.95 mmole, 372 mg | NCC(=O)O | C2H5NO2
solvent | sodium methoxide methanol | 0.5 M, 9.4 ml | C[O-].[Na+].CO
product | [(7-Hydroxy-2,4-diphenyl-thiazolo[5,4-c]pyridine-6-carbonyl)-amino]-acetic acid | 79 mg | OC=1C2=C(C(=NC1C(=O)NCC(=O)O)C1=CC=CC=C1)SC(=N2)C2=CC=CC=C2 | C21H15N3O4S
